US20010011086A1
Step A: Preparation of 4-Acetoxy-7-formyl-fluoren-9-one
To a stirred suspension of 1.53 g (6.83 mmol) of 4-hydroxy-7-formyl-fluoren-9-one, prepared in Step G of Prepartive Example 12, in 25 mL THF at 0° C. was added 1.24 mL (8.88 mmol) of triethylamine and 0.58 mL (8.2 mmol) of acetyl chloride. The mixture was stirred further for 0.5 hour and then partitioned between EtOAc, ice, 1N HCl, and brine. The organic phase was separated, washed with brine, dried over Na2SO4, filtered, evaporated, and dried in vacuo. Purification by chromatography on silica gel using methylene chloride as eluant gave 1.46 g of the title compound.

reactant | 4-hydroxy-7-formyl-fluoren-9-one | 6.83 mmol, 1.53 g | OC1=CC=CC=2C(C3=CC(=CC=C3C12)C=O)=O | C14H8O3
reactant | triethylamine | 8.88 mmol, 1.24 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 8.2 mmol, 0.58 mL | C(C)(=O)Cl | C2H3ClO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 4-Acetoxy-7-formyl-fluoren-9-one | 1.46 g | C(C)(=O)OC1=CC=CC=2C(C3=CC(=CC=C3C12)C=O)=O | C16H10O4
